US06924400B2
(k) 2-Ethyl-5-ethoxymethoxyphenylboronic acid
12 g (49 mmol) of 1-bromo-2-ethyl-5-ethoxymethoxybenzene are placed in 200 ml of dry THF in a round-bottomed flask and under a stream of nitrogen. The reaction medium is cooled to −78° C. and 23 ml (58 mmol) of 2.5M n-butyllithium in hexane are added dropwise. 20 minutes later, 13.6 ml (59 mmol) of triisopropyl borate are added slowly. Stirring is continued for 1 hour at −78° C. The mixture is then poured into a solution of water and hydrochloric acid and is then extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (50/50). After evaporating off the solvents, 6.7 g (65%) of the expected product are obtained in the form of white crystals.

reactant | 1-bromo-2-ethyl-5-ethoxymethoxybenzene | 49 mmol, 12 g | BrC1=C(C=CC(=C1)OCOCC)CC | C11H15BrO2
reactant | n-butyllithium | 58 mmol, 2.5M, 23 ml | C(CCC)[Li]
reactant | triisopropyl borate | 59 mmol, 13.6 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 2-Ethyl-5-ethoxymethoxyphenylboronic acid | C(C)C1=C(C=C(C=C1)OCOCC)B(O)O | C11H17BO4
